data/specific_train_final.csv
"C(C=CC[O:21][O:20][O])O.[N+](=O)[O-]>>C(C=CC[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[CH:10]C1=CC(=CC(=C1)C)C.[O:20][O]>>CC1=CC(=CC(=C1)[CH:10](C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:1]=[C:2]([CH2:8][O:9][N+:10](=[O:12])[O-:11])[CH:3]([CH2:6][OH:7])[O:4][O:5][N:13]=[O:14]>>[CH2:1]=[C:2]([CH2:8][O:9][N+:10](=[O:12])[O-:11])[CH:3]([CH2:6][OH:7])[O:4].[O:5][N:13]=[O:14] 4,5-4;4,5-5",Room Temperature,Initiation,homolyze
"CC(CCl)([O:20][O:21]N=O)Cl>>CC(CCl)([O:20])Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:21](=[CH:20]COO)C=O.[OH:10].[O][O]>>C[C:21](C=O)[CH:20](COO)[OH:10].[O][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C)COO[O:20][N+:21](=O)[O-]>>CC(C)(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:8]([C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:11])([Cl:7])[Cl:10])[Cl:9]>>[CH2:8]([C:6]([O:5][O:4][O:3])([Cl:7])[Cl:10])[Cl:9].[N+:2](=[O:1])[O-:11] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[CH2:13]=[CH:12][CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:14]>>[CH2:13]=[CH:12][CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:14] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"CCC1=C([CH:20]=[CH:21]C=C1)C.[OH:10]>>CCC1=C([CH:20]([CH:21]C=C1)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
CC(=O)OCC[O:20].[N:10](=O)[O:21]>>CC(=O)OCC[O:20].[N+:10](=O)[O-:21] 10-21,Room Temperature,Propagation,ha resonance
"CCC(C(C)O[N+](=O)[O-])O[O:20].[N:10]=O>>CCC(C(C)O[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C(C)(C)[O:20])O.[N+:10](=O)[O-]>>CC(C)(C(C)(C)[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C(C)(C=O)O)O.[OH:10]>>[H:20][OH:10].CC([CH:21]O)(C=O)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO[O:20])C(C)O.[N:10]=O>>CC(CO[O:20][N:10]=O)C(C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C(Cl)(Cl)Cl.[OH:10]>>[H:20][OH:10].[CH2:21]C(Cl)(Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10](CO[N+](=O)[O-])C=[CH+].[O:20][O]>>C[C:10](CO[N+](=O)[O-])(C=[CH+])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21]1=[CH:20]C(=C(C=C1)O)C.[OH:10]>>C[C:21]1C=CC(=C([CH:20]1[OH:10])C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:21]=[CH:20]Cl.[N+](=O)([O-])[O:10]>>[CH2:21][CH:20]([O:10][N+](=O)[O-])Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(CCO)[O:20][O:21]N=O>>CC(CCO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)OC(C)CO[O:20].[N:10]=O>>CC(C)OC(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:21]=[C:20](Cl)Cl.[OH:10]>>[CH2:21][C:20]([OH:10])(Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C(OC)O[O:20])O.O[O:10]>>CC(C(OC)O[O:20][O:10]O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](CO)C(CO)[O:20][N+:21](=O)[O-]>>C[C:10]1(CO)C(CO)[O:20]1.[N+:21](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:13][C:12]([CH3:14])([CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:16])[OH:15]>>[CH3:13][C:12]([CH3:14])([CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3])[OH:15].[N+:2](=[O:1])[O-:16] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H][O][CH:3]([CH2][OH])[C:2]([O:8])([CH3])([CH2][O][N+](=[O])[O-])>>C[C:2](CO[N+]([O-])=O)=[O:8].[CH2]([CH:3][OH])[OH] 2,3-3;2,3-2,8;8-2,8",Room Temperature,Propagation,retroaddition
"CCC(C1=CC=CC=C1)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C1=CC=CC=C1)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)CO[O:20].[N:10]=O>>C1=CC=C(C=C1)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C[C:21](=[CH:20]C(=C1)C)C.[OH:10]>>CC1=C[C:21]([CH:20](C(=C1)C)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].C(COCO[O:10])O>>[H:20][O:10]OCOCCO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(OC)[O:20][O:21]N=O)O>>CC(C([O:20])OC)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21]1(C=CC=C[C:22]1CCC)O.[O:10][O]>>[H:20][O:10][O].CCC[C:22]1=[C:21](C=CC=C1)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[CH3:7][C:6](=[CH:8][CH2:9][OH:10])[CH2:5][O:4][O:3][N:2]=[O:1]>>[CH3:7][C:6](=[CH:8][CH2:9][OH:10])[CH2:5][O:4].[N:2](=[O:1])[O:3] 4,3-3; 4,3-4",Room Temperature,Initiation,homolyze
"CC(C(C=O)O[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(C(C=O)O[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
